Name:  ___              Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
lisinopril
 
Attending: ___.
 
Chief Complaint:
Encephalopathy
 
Major Surgical or Invasive Procedure:
Lumbar puncture on ___, negative
 
History of Present Illness:
___ with urinary retention with chronic indwelling Foley, ___ 
body dementia, DM2 requiring insulin, CAD s/p CABG, NSVT s/p ICD 
placement, who presents from his nursing home with fever, 
leukocytosis, and altered mental status. 

Caretakers at his facility noted that his temp was ___ and his 
mental status was not at his baseline (he was not talking or 
verbalizing). WBC 19.9, Na 152, and Cr 2.53 (baseline 1.4). 
Since ___, nurses reported he was more lethargic but easily 
arousable. They noted his appetite decreased (used to eat 
80-100%, decreased to ___. They could not get PO fluids into 
him. He had not been taking any meds since ___ until admission. 
On the day prior to admission, he was difficult to arouse and 
was not holding body up. Nurses got labs and UA on ___ 
afternoon. CXR ordered late night ___ showed possible PNA. On 
the night of ___, patient's temp started to rise, peaking at 
101. At this time, EMS was called and patient was transferred to 
___ for further evaluation and management. 

On arrival to ___ ED at 2am, his vitals were: Temp ___, BP 
64/25, HR 94, RR 20, O2sat 100%2L. He immediately triggered for 
hypotension. Nursing reports AMS since arrival, with left-sided 
facial droop documented at 2:16am, and was not responsive to 
painful stimuli. Urine analysis showed large leuks, WBC 40, RBC 
1, Nitr positive, so ceftriaxone was started for UTI. 

Of note, his most recent admission in ___ was also for AMS 
thought to be due to urinary retention, and the indwelling foley 
was placed at this time. ___ body dementia progressively worse 
within the past few months. On ___, Mr. ___ was 
transferred from home care by his daughter ___ to 
___. 

Per his nurse, his baseline mental status is usually alert with 
confusion and he can answer simple questions. He is only 
oriented only self, but can recognize daughter (although cannot 
name her). He can communicate if he is in pain. He has auditory 
and visual hallucinations ___ ___ body dementia, so was started 
on trilafon although this made him extremely restless. On ___, 
his psychiatrist began a cross taper of his antipsych meds, with 
tapering off trilafon and starting Seroquel. At baseline, his 
nurse reported no noticeable facial droop, and he could move all 
extremities equally when he becomes combative to being moved. 
His Foley was last changed on ___. 
 
Past Medical History:
___ Body Dementia/Delusional Parasitosis
Chronic indwelling urinary catheter
Chronic kidney disease
REM behavior disorder
obstructive sleep apnea
diabetes mellitus type 2 requiring insulin
hyperlipidemia
CAD s/p CABG ___, NSVT ___ s/p ICD (replaced ___, therapies 
turned off ___ after discussion with family/Dr. ___
Cataracts
Hypogonadism and erectile dysfunction
 
Social History:
___
Family History:
Father with cardiovascular disease
 
Physical Exam:
ADMISSION PHYSICAL EXAM:
============================
Vitals: 98.0 108/48 80 12 98%RA
General: Difficult to arouse, intermittently opens eyes to 
calling his name
___: sclera anicteric, dry MM, oropharynx clear, left-sided 
lower facial droop (but difficult to assess because pt not 
responding to commands, unclear h/o droop)
Neck: supple, JVP not elevated, no LAD  
Lungs: clear to auscultation bilaterally, no wheezes, rales, 
ronchi  
CV: regular rate and rhythm, normal S1 + S2, no murmurs, rubs, 
gallops, ICD noted under skin in upper left thorax  
Abdomen: soft, non-tender, non-distended, bowel sounds present, 
no rebound tenderness or guarding, no organomegaly  
GU: indwelling foley ___ with yellow-orange urine output
Ext: warm, well perfused, 2+ pulses, no clubbing, cyanosis or 
edema. Multiple bed ulcers noted on bilateral shins and heels. 
Neuro: Difficult to assess. Dysarthric w/ poor speech output 
even when attentive

DISCHARGE PHYSICAL EXAM:
============================
VS: RR ___
GEN: Nonverbal, not arousable to voice, minimally responsive to 
sternal rub
___: mild left-sided facial droop
GU: indwelling Foley catheter

 
Pertinent Results:
ADMISSION LABS:
=======================
___ 02:20AM BLOOD WBC-21.1*# RBC-4.19* Hgb-9.8* Hct-31.5* 
MCV-75* MCH-23.4* MCHC-31.1* RDW-14.9 RDWSD-40.2 Plt ___
___ 02:20AM BLOOD Neuts-74.2* Lymphs-16.9* Monos-7.8 
Eos-0.1* Baso-0.3 Im ___ AbsNeut-15.64* AbsLymp-3.55 
AbsMono-1.64* AbsEos-0.03* AbsBaso-0.06
___ 02:20AM BLOOD Glucose-245* UreaN-93* Creat-2.3* Na-154* 
K-5.5* Cl-113* HCO3-23 AnGap-24*
___ 09:06AM BLOOD Calcium-8.5 Phos-4.4 Mg-2.6
___ 02:30AM BLOOD Lactate-2.0
___ 02:20AM URINE Color-Yellow Appear-Hazy Sp ___
___ 02:20AM URINE Blood-TR Nitrite-POS Protein-100 
Glucose-NEG Ketone-NEG Bilirub-NEG Urobiln-NEG pH-8.0 Leuks-LG
___ 02:20AM URINE RBC-1 WBC-40* Bacteri-MOD Yeast-NONE 
Epi-0
___ 02:20AM URINE 3PhosX-FEW
___ 02:20AM URINE Mucous-RARE
___ 05:01PM CEREBROSPINAL FLUID (CSF) WBC-2 RBC-1* Polys-0 
___ Macroph-14
___ 05:01PM CEREBROSPINAL FLUID (CSF) TotProt-189* 
Glucose-138

IMAGING:
=======================
CXR on ___:
No acute intrathoracic process.

CT Head w/o Contrast on ___:
No major territorial infarction, hemorrhage or fracture.

CT Head w/o contrast (repeated on ___:
1. No acute intracranial process, specifically no intracranial 
hemorrhage. 
2. Chronic changes as described above. 

EKG:
=======================
(___): Sinus arrhythmia. Early R wave transition, possible 
normal variant. Inferior myocardial infarction, age 
indeterminate. Compared to the previous tracing of ___ the 
findings are similar.

MICRO:
=======================
   URINE CULTURE (Final ___: 
      Culture workup discontinued. Further incubation showed 
contamination
      with mixed fecal flora. Clinical significance of 
isolate(s)
      uncertain. Interpret with caution. 
      PROTEUS MIRABILIS.    >100,000 ORGANISMS/ML.. 
         PRESUMPTIVE IDENTIFICATION. 

                              SENSITIVITIES: MIC expressed in 
MCG/ML
                      
_________________________________________________________
                             PROTEUS MIRABILIS
                             |   
AMPICILLIN------------   <=2 S
AMPICILLIN/SULBACTAM--   <=2 S
CEFEPIME--------------   <=1 S
CEFTAZIDIME-----------   <=1 S
CEFTRIAXONE-----------   <=1 S
CIPROFLOXACIN---------   =>4 R
GENTAMICIN------------     4 S
MEROPENEM-------------<=0.25 S
PIPERACILLIN/TAZO-----   <=4 S
TOBRAMYCIN------------     2 S
TRIMETHOPRIM/SULFA----  =>16 R

 Blood Culture, Routine (Preliminary): 
      STAPHYLOCOCCUS, COAGULASE NEGATIVE. 
         Isolated from only one set in the previous five days. 
         SENSITIVITIES PERFORMED ON REQUEST.. 

   Aerobic Bottle Gram Stain (Final ___: 
      GRAM POSITIVE COCCI IN CLUSTERS. 

___ Microbiology:
   GRAM STAIN (Final ___: 
      NO POLYMORPHONUCLEAR LEUKOCYTES SEEN. 
      NO MICROORGANISMS SEEN. 
      This is a concentrated smear made by cytospin method, 
please refer to
      hematology for a quantitative white blood cell count.. 

   FLUID CULTURE (Preliminary):    NO GROWTH.

DISCHARGE LABS:
=======================
___ 05:38AM BLOOD WBC-13.0* RBC-3.17* Hgb-7.4* Hct-23.6* 
MCV-74* MCH-23.3* MCHC-31.4* RDW-15.2 RDWSD-40.7 Plt ___
___ 05:38AM BLOOD Glucose-62* UreaN-26* Creat-1.0 Na-146* 
K-3.9 Cl-113* HCO3-23 AnGap-14
___ 05:38AM BLOOD Calcium-8.9 Phos-3.8 Mg-2.___ with advanced ___ body dementia, baseline AOx1, CAD s/p 
CABG, anemia, CKD who presents with encephalopathy, UTI, 
hypernatremia, and acute on chronic kidney disease. Patient was 
transferred from nursing home to ___ after positive UA showing 
UTI, increased lethargy, and AMS. He completed 7 days of 
ceftriaxone. Hypernatremia and ___ were treated with IVF. Given 
advanced dementia and DNR/DNI status, ICD therapies were turned 
off. He had no significant improvement in mental status and 
family meeting was held. He was transitioned to comfort 
measures.

# COMFORT MEASURES ONLY. DNR/DNI. ICD therapies were turned off. 
He will be given scopolamine patch, morphine liquid, and 
lorazepam PO as needed for pain, anxiety, or respiratory 
distress.

# ENCEPHALOPATHY, TOXIC-METABOLIC.  Patient at baseline is 
arousable and alert, oriented only to self, and can answer 
simple questions or commands. On admission, he was noted to have 
a left lower facial droop. Code stroke was called, neuro 
consulted. CT head showed no major territorial infarction, 
hemorrhage or fracture. Shortly afterwards, patient was awake to 
name calling and painful stimuli. Etiology was likely 
toxic-metabolic encephalopathy, infection, electrolyte 
derangement. He was treated for these but did not improve.

# NUTRITION. Due to encephalopathy, he was not able to swallow 
or participate in meals initially and was made strict NPO by 
S&S. He was eventually upgraded to modified regular diet of thin 
liquids and ground solids, but was too somnolent to participate 
in meals. Family meeting was held on ___ regarding comfort vs 
feeding tube, and feeding tube was not within goals of care. 
Diet as tolerated given CMO.

# UTI, CATHETER-ASSOCIATED: Patient has a chronic indwelling 
foley for urinary retention, first placed in ___. Changed on 
___ at ___ home. He developed a CAUTI and was treated with 
7 days of ceftriaxone, urine culture growing Proteus, from ___ 
to ___. Foley was changed in our ED on day of admission. 

# HYPERNATREMIA: Na mid ___ and altered, due to decreased PO 
intake from encephalopathy. We treated him with D5W IVF and his 
serum sodium slowly normalized to baseline levels. His last 
measured serum Na was 146 on ___.

# ACUTE ON CHRONIC KIDNEY DISEASE:  Likely prerenal vs 
infection. Treated with IVF.  Baseline CKD stage III. Cr 2.3 on 
admission, baseline low to mid 1's.

# Bacteremia: Patient growing GPCs in clusters. Started on 
vancomycin ___, but stopped as it was felt to be contamination.

### CHRONIC ISSUES ###
# DM2: Chronic issue. Patient had higher blood glucose sticks 
than baseline with D5W. Treated with insulin. 

# ___ body dementia: Chronic progressive, advanced disease. No 
auditory or visual hallucinations during hospitalization. We 
held his trazadone and seroquel given his minimal 
responsiveness. We continued his perphenazine.

# CAD: Chronic issue. We continued his ASA and statin. He has 
ICD placed for history of NSVT and depressed EF. Given ongoing 
goals of care and progressive dementia, we discussed turning off 
his ICD with family and his outpatient cardiologist Dr. ___, 
___ were all in agreement. ICD therapies was turned off.

Transitional Issues:
-Comfort measures only
-Discharged on scopolamine patch, morphine liquid, lorazepam PO 
PRN
-ICD therapies were turned off given advanced dementia and 
DNR/DNI
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Aspirin 81 mg PO DAILY 
2. Ferrous Sulfate 325 mg PO DAILY 
3. Multivitamins 1 TAB PO DAILY 
4. Docusate Sodium 100 mg PO BID 
5. Atorvastatin 40 mg PO QPM 
6. Perphenazine 12 mg PO QHS 
7. Senna 8.6 mg PO QHS 
8. Nitroglycerin SL 0.4 mg SL Q5MIN:PRN chest pain  
9. Meladox (melatonin) 6 mg oral QHS 
10. TraZODone 25 mg PO Q6H:PRN insomnia, anxiety 
11. Glargine 34 Units Breakfast
Insulin SC Sliding Scale using HUM Insulin
12. QUEtiapine Fumarate 25 mg PO TID 

 
Discharge Medications:
1. Scopolamine Patch 1 PTCH TD Q72H 
2. Morphine Sulfate (Concentrated Oral Soln) 5 mg PO Q1H:PRN 
pain or respiratory distress 
RX *morphine concentrate 100 mg/5 mL (20 mg/mL) 5 mg by mouth 
every one (1) hour Refills:*0
3. Lorazepam 0.5 mg PO Q2H:PRN anxiety or distress 
RX *lorazepam 0.5 mg 1 tablet by mouth every two (2) hours Disp 
#*30 Tablet Refills:*0

 
Discharge Disposition:
Extended Care
 
Facility:
___
 
___ Diagnosis:
PRIMARY:
-Comfort measures only
-Urinary tract infection, complicated, catheter-associated
-Encephalopathy, toxic-metabolic
-Acute kidney injury
-Hypernatremia
-___ body dementia

Secondary:
-Type II diabetes mellitus requiring insulin
-Coronary artery disease s/p ICD
-Anemia of chronic disease
-Hyperlipidemia

 
Discharge Condition:
Mental Status: Confused - always.
Level of Consciousness: Lethargic and not arousable.
Activity Status: Bedbound.

 
Discharge Instructions:
Dear Mr. ___,

It was a pleasure taking care of you at ___ 
___, where you were admitted for a urinary tract 
infection and altered mental status after being transferred here 
from your nursing home on ___. 

At your nursing home, you were noticed to be more lethargic and 
had a fever. Labs showed a urinary tract infection, kidney 
failure, and too much sodium in your blood. We treated you with 
antibiotics for your UTI, and gave you IV fluids to correct your 
high sodium levels and improve your kidney function. A lumbar 
puncture was normal. 

Unfortunately, your mental status did not improve. After 
discussion with your family and your cardiologist Dr. ___ 
was decided to turn off your ICD so that it would not shock you. 
A family meeting was held and your goals of care were 
transitioned to focus on comfort.
 
Followup Instructions:
___